data/mechanism_extracts/ChemHeterocyclCompd/10.1007_s10593-021-02966-8.json
{"doi": "10.1007_s10593-021-02966-8", "journal": "ChemHeterocyclCompd", "is_review": false, "rxn_class_summary": "Electrocatalytic cascade assembly of benzylidenebarbiturates and cyclohexane-1,3-diones in MeOH with NaBr mediator to give dihydro-spiro[1-benzofuran-2,5'-pyrimidines]", "mechanism_family": ["mediator_anodic", "paired_electrolysis", "anion_initiated", "electrocatalysis_outer_sphere"], "electrochemical_role": "Cathodic reduction of MeOH generates methoxide (base) and H2; anodic oxidation of Br- generates Br2 which acts as the in-solution oxidant/halogenating mediator", "key_intermediates": [{"name": "Deprotonated cyclohexane-1,3-dione anion (A)", "smiles": null, "role": "reactive"}, {"name": "Michael adduct enolate anion B from addition of A to benzylidenebarbiturate", "smiles": null, "role": "reactive"}, {"name": "alpha-Bromo Michael adduct (after bromination of B by Br2)", "smiles": null, "role": "transient"}, {"name": "Enolate anion C (after second deprotonation by methoxide)", "smiles": null, "role": "reactive"}, {"name": "Spirobarbituric dihydrofuran 3 (final product via intramolecular O-alkylation/SN2 displacement of Br)", "smiles": null, "role": "reactive"}], "electron_flow": "Cathode reduces MeOH to MeO- (and H2), which deprotonates the 1,3-dione to anion A; A undergoes Michael addition to benzylidenebarbiturate 1 giving enolate B; anodically generated Br2 brominates B at the barbiturate alpha-carbon; a second methoxide deprotonation gives enolate C, whose dione oxygen displaces bromide intramolecularly to forge the dihydrofuran spirocycle, regenerating Br-.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["other"], "evidence_strength": "weak", "notes": "Mechanism proposed without explicit mechanistic probes (no TEMPO, KIE, or CV reported in shown pages); structures of products confirmed by 1H-13C HMBC. Br- functions as a redox mediator and methoxide as an in situ generated base; both base and halogen are present only in catalytic concentrations (2.4 F/mol passed)."}
